US04496567
Equimolar quantities of 3-(dimethylaminomethyl)benzyl alcohol and cysteamine hydrochloride were heated under reflux for 5 hours in 12N aqueous hydrochloric acid and the mixture was evaporated to give 2-[3-(dimethylaminomethyl)benzylthio]ethylamine dihydrochloride.

reactant | 3-(dimethylaminomethyl)benzyl alcohol | CN(C)CC=1C=C(CO)C=CC1 | C10H15NO
reactant | cysteamine hydrochloride | Cl.NCCS
solvent | hydrochloric acid | 12N | Cl | ClH
product | 2-[3-(dimethylaminomethyl)benzylthio]ethylamine dihydrochloride | Cl.Cl.CN(C)CC=1C=C(CSCCN)C=CC1 | InChI=1S/C12H20N2S.2ClH/c1-14(2)9-11-4-3-5-12(8-11)10-15-7-6-13;;/h3-5,8H,6-7,9-10,13H2,1-2H3;2*1H
